US06960598B2
7-Trifluoromethyl[1,8]naphthyridin-4-ol (2.00 g, 9.34 mmol) was added in portions to phosphorus oxychloride with stirring at room temperature—a mild exotherm was observed. The mixture was stirred at room temperature under nitrogen overnight. The solvent was removed in vacuo, and saturated sodium hydrogencarbonate solution was added with ice-bath cooling to the residual material with stirring, until the pH of the mixture was ˜7. The mixture was extracted with dichloromethane (3×50 mL), then the combined organic layers were dried over magnesium sulfate, and were concentrated in vacuo. The crude product was purified by flash chromatography on silica gel, eluting with 25% ethyl acetate in dichloromethane, yielding 5-chloro-2-trifluoromethyl-[1,8]naphthyridine as an off-white solid (1.67 g, 77%). δH (360 MHz, CDCl3) 7.72 (1H, d, J 4.6), 7.96 (1H, d, J 8.8), 8.86 (1H, d, J 8.4), 9.15 (1H, d, J 4.6). m/z (ES+) 233, 235 [MH]+.

reactant | 7-Trifluoromethyl[1,8]naphthyridin-4-ol | 9.34 mmol, 2.00 g | FC(C1=CC=C2C(=CC=NC2=N1)O)(F)F | C9H5F3N2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-2-trifluoromethyl-[1,8]naphthyridine | 1.67 g, 77% | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
